US06413991B1
(S)-4-[2-Hydroxy-3-([4-carbamoylphenyl]-2-methylpropylamino)propoxy]carbazole
Titled compound was prepared substantially in accordance with Example 114 from (S)-4-(oxiranylmethoxy)-9H-carbazole (0.479 g, 2 mmol) and 4-[3-amino-3-methylpropyl]benzamide (580 mg, 3mmol) to yield product after purification. MS(m+1) 432.

reactant | (S)-4-(oxiranylmethoxy)-9H-carbazole | 2 mmol, 0.479 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | 4-[3-amino-3-methylpropyl]benzamide | 3mmol, 580 mg | NC(CCC1=CC=C(C(=O)N)C=C1)C | C11H16N2O
product | (S)-4-[2-Hydroxy-3-([4-carbamoylphenyl]-2-methylpropylamino)propoxy]carbazole | O[C@H](COC1=CC=CC=2NC3=CC=CC=C3C12)CN(CC(C)C)C1=CC=C(C=C1)C(N)=O | C26H29N3O3
